US07361672B2
55.2 To a stirred mixture of 100 mg N-(4-{2-[4-(2-bromo-acetyl)-piperazin-1-yl]-2-oxo-ethyl}-thiazol-2-yl)-4-chloro-benzamide in 5 ml THF at r.t. were added 0.04 ml (aminomethyl)cyclohexane and 0.09 ml triethylamine. After 48 hrs stirring at r.t. under argon atmosphere, the reaction mixture was concentrated. The crude product was purified by chromatography on silica using a gradient from CH2Cl2 to CH2Cl2/MeOH 95:5 in 20 min to give 19 mg 4-chloro-N-[4-(2-{4-[2-(cyclohexylmethyl-amino)-acetyl]-piperazin-1-yl}-2-oxo-ethyl)-thiazol-2-yl]-benzamide. White solid. MS 518.5 ([M+H]+)

reactant | N-(4-{2-[4-(2-bromo-acetyl)-piperazin-1-yl]-2-oxo-ethyl}-thiazol-2-yl)-4-chloro-benzamide | 100 mg | BrCC(=O)N1CCN(CC1)C(CC=1N=C(SC1)NC(C1=CC=C(C=C1)Cl)=O)=O | C18H18BrClN4O3S
reactant | (aminomethyl)cyclohexane | 0.04 ml | NCC1CCCCC1 | C7H15N
reactant | triethylamine | 0.09 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 4-chloro-N-[4-(2-{4-[2-(cyclohexylmethyl-amino)-acetyl]-piperazin-1-yl}-2-oxo-ethyl)-thiazol-2-yl]-benzamide | 19 mg | ClC1=CC=C(C(=O)NC=2SC=C(N2)CC(=O)N2CCN(CC2)C(CNCC2CCCCC2)=O)C=C1 | C25H32ClN5O3S
